US05348953
2-(S)-[2-[[2-(Dimethylamino)ethyl]methylamino]-2-oxoethoxy]-3,3-diethyl-N-[1-(R)-(4-methylphenyl) butyl]-4-oxo-1-azetidinecarboxamide;
2-(S)-[2-[[2-(Dimethylamino)ethyl]ethylamino]-2-oxoethoxy]-3,3-diethyl-N-[1-(R)-(4-methylphenyl) butyl]-4-oxo-1-azetidinecarboxamide or the L-malic acid salt thereof; or

reactant | 2-(S)-[2-[[2-(Dimethylamino)ethyl]ethylamino]-2-oxoethoxy]-3,3-diethyl-N-[1-(R)-(4-methylphenyl) butyl]-4-oxo-1-azetidinecarboxamide | CN(CCN(C(CO[C@@H]1N(C(C1(CC)CC)=O)C(=O)N[C@H](CCC)C1=CC=C(C=C1)C)=O)CC)C | C27H44N4O4
reactant | L-malic acid | C([C@@H](O)CC(=O)O)(=O)O | C4H6O5
product | 2-(S)-[2-[[2-(Dimethylamino)ethyl]methylamino]-2-oxoethoxy]-3,3-diethyl-N-[1-(R)-(4-methylphenyl) butyl]-4-oxo-1-azetidinecarboxamide | CN(CCN(C(CO[C@@H]1N(C(C1(CC)CC)=O)C(=O)N[C@H](CCC)C1=CC=C(C=C1)C)=O)C)C | C26H42N4O4
